US08877779B2
To a suspension of 60% sodium hydride (4.12 g) in toluene (200 ml) was added dropwise ethyl diethylphosphonoacetate (20.4 ml) under ice-cooling, and the mixture was stirred at room temperature for 45 min. Then, a solution of 5-fluoro-3,4-dihydro-2H-naphthalen-1-one (15.3 g) in toluene (50 ml) was added dropwise, and the mixture was stirred at 80° C. for 2 hr. After cooling to room temperature, the reaction mixture was poured into ice water, and the mixture was extracted with toluene. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give ethyl (5-fluoro-3,4-dihydro-2H-naphthalen-1-ylidene)acetate.

reactant | sodium hydride | 4.12 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 20.4 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 5-fluoro-3,4-dihydro-2H-naphthalen-1-one | 15.3 g | FC1=C2CCCC(C2=CC=C1)=O | C10H9FO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (5-fluoro-3,4-dihydro-2H-naphthalen-1-ylidene)acetate | FC1=C2CCCC(C2=CC=C1)=CC(=O)OCC | C14H15FO2
